US07405300B2
4-(2-chloro-3-formylindol-1-yl)-benzonitrile is reacted with piperazine as described in Step 2 of Example 29 to afford 4-[3-formyl-2-(piperazin-1-yl)-indol-1-yl]-benzonitrile as a light tan solid. ESI/MS 331 (M+H); NMR (CDCl3) 10.35 (1H, s); 8.31 (1H, d, J=9 Hz); 7.92 (2H, d); 7.60 (2H, d); 7.31 (3H, m); 6.99 (1H, d, J=9 Hz); 3.28 (4H, m); 2.79 (4H, m).

reactant | 4-(2-chloro-3-formylindol-1-yl)-benzonitrile | ClC=1N(C2=CC=CC=C2C1C=O)C1=CC=C(C#N)C=C1 | C16H9ClN2O
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 4-[3-formyl-2-(piperazin-1-yl)-indol-1-yl]-benzonitrile | C(=O)C1=C(N(C2=CC=CC=C12)C1=CC=C(C#N)C=C1)N1CCNCC1 | C20H18N4O
